US05747498
(7-Propylsulfanyl-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine Hydrochloride
7-Propylsulfanyl-quinazolin-4-one (300 mg, 1.36 mmol), triphenylphosphine (785 mg, 2.99 mmol), 1.31 mL of carbon tetrachloride and 5 mL of chloroform were refluxed for 16 hours and the reaction mixture was concentrated in vacuo to a residue which was diluted with 5 mL of isopropyl alcohol and 3-ethynylaniline (175 mg, 1.49 mmol) and refluxed for 3 hours. The cooled reaction mixture was concentrated in vacuo and the residue purified by column chromatography on silica gel eluted with 10% methanol in chloroform. Fractions containing the pure title product, as the frree amine, were concentrated in vacuo to afford solid which was added to 3 mL of 1N HCl in methanol. This solution was evaporated in vacuo to a residue which was triturated with 4 mL of hot isopropyl alcohol cooled and filtered. The solid thus obtained was dried in vacuo at 70° C. to afford pure title product; 239 mg (55%); mp 229°-230° C.

reactant | 7-Propylsulfanyl-quinazolin-4-one | 1.36 mmol, 300 mg | C(CC)SC1=CC=C2C(NC=NC2=C1)=O | C11H12N2OS
reactant | triphenylphosphine | 2.99 mmol, 785 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-ethynylaniline | 1.49 mmol, 175 mg | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | HCl | 1N, 3 mL | Cl | ClH
solvent | isopropyl alcohol | 5 mL | C(C)(C)O | C3H8O
solvent | methanol | CO | CH4O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | carbon tetrachloride | 1.31 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (7-Propylsulfanyl-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine Hydrochloride | Cl.C(CC)SC1=CC=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C#C | InChI=1S/C19H17N3S.ClH/c1-3-10-23-16-8-9-17-18(12-16)20-13-21-19(17)22-15-7-5-6-14(4-2)11-15;/h2,5-9,11-13H,3,10H2,1H3,(H,20,21,22);1H
